US08008303B2
4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-carboxylic acid
4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-carboxylic acid methyl ester (1.09 g) was heated to reflux in 1M sodium hydroxide (20 ml) and THF (20 ml) for 3 h. The mixture was then allowed to cool, and the THF evaporated. The aqueous residue was extracted with dichloromethane, and was then acidified. The resultant white solid was collected by filtration and dried (950 mg).

reactant | 4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-carboxylic acid methyl ester | 1.09 g | COC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCS(CC1)(=O)=O)=O | C27H28N2O5S
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1M, 20 ml | [OH-].[Na+]
product | 4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-carboxylic acid | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)C(=O)O)=O | C26H26N2O5S
